US07994185B2
Step A: 2-propen-1-yl {3-[bromo(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate
To a stirring mixture of 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate (5 g, 14.30 mmol) in DMA (100 ml) was added NBS (2.54 g, 14.30 mmol) and mixture was stirred at 25° C. overnight. The reaction mixture was poured into water (400 ml) and extracted with EtOAc (100 ml×3). The combined organic layers were dried over Na2SO4 and evaporated to afford the title compound as a yellow oil (6.1 g, 99%). MS (ES): 427 [M+H]+.

reactant | 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate | 14.30 mmol, 5 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C16H13ClFN3O3
reactant | NBS | 14.30 mmol, 2.54 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 400 ml | O | H2O
solvent | DMA | 100 ml | CC(=O)N(C)C | C4H9NO
product | 2-propen-1-yl {3-[bromo(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate | 6.1 g, 99% | BrC(C(=O)C=1C(=C(C=CC1)NC(OCC=C)=O)F)C1=NC(=NC=C1)Cl | C16H12BrClFN3O3
